US06225330B1
To the mixture of guaiacol (2-methoxyphenol, 1.0 equivalent) and γ-butyrolactone, cooled in an ice-water bath, was added potassium ethoxide in small portions. The reaction mixture was heated at 110° C. overnight, and then at 155° C. for an additional 10 hours. The mixture was then poured into ice water, basified to pH 9.5 with saturated sodium bicarbonate, and extracted with chloroform. The aqueous phase was separated, acidified to pH 2.5 with 2N HCl, and extracted with a mixture of chloroform:isopropyl alcohol (3:1). The organic phase was dried over anhydrous sodium sulfate and evaporated to afford 4-(2-methoxyphenoxy)butanoic acid as a light brown oil in 55% yield. The crude product was used for next reaction without further purification: 1H NMR δ 6.90 (m, 4H), 4.08 (t, 2H, J=6.2 Hz), 3.85 (s, 3H), 2.62 (t, 2H, J=7.2 Hz), 2.16 (p, 2H, J=6.6 Hz).

reactant | guaiacol | 1.0 equivalent | C=1(C(O)=CC=CC1)OC | C7H8O2
reactant | γ-butyrolactone | C1(CCCO1)=O | C4H6O2
reactant | potassium ethoxide | [O-]CC.[K+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 4-(2-methoxyphenoxy)butanoic acid | 55% yield | COC1=C(OCCCC(=O)O)C=CC=C1 | C11H14O4
